US05565586
Synthesis of 1-(p-nitrophenoxy)-2-methyl-3-butene-2-ol
Into N,N-dimethyl formamide (200 ml) were suspended 11 g (0.27 mol) of 60%-sodium hydride. With stirring under ice cooling, an N,N-dimethyl formamide (150 ml) solution containing 38 g (0.27 mol) of p-nitrophenol was added dropwise therein over three hours. After the resulting solution was continuously stirred for further one hour as it was, the reaction liquid became a homogeneous yellow solution. The reaction liquid was returned to room temperatures, and an N,N-dimethylformamide (100 ml) solution containing 38 g (0.23 mol) of (1-chloro-2-methyl-3-butene-2-yl) acetate was added dropwise therein over three hours. The resulting mixture was stirred for additional one hour as it was. The reaction liquid was dispersed in water (1,000 ml), and 20 g of potassium carbonate were added therein, followed by stirring for one hour. After the extract obtained by extraction therefrom with ethyl acetate (500 ml) was washed with water and dried, it was concentrated under reduced pressure, thereby obtaining a yellowish brown and oily residue. This residue was purified by chromatography on a silica gel column (ethyl acetate:n-hexane system), whereby 36.5 g of the title compound were obtained. (Yield: 70.8%)

reactant | sodium hydride | [H-].[Na+]
reactant | p-nitrophenol | 0.27 mol, 38 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | (1-chloro-2-methyl-3-butene-2-yl) acetate | 0.23 mol, 38 g | C(C)(=O)OC(CCl)(C=C)C | C7H11ClO2
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1,000 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-(p-nitrophenoxy)-2-methyl-3-butene-2-ol | 36.5 g, Yield: 70.8% | [N+](=O)([O-])C1=CC=C(OCC(C=C)(O)C)C=C1 | C11H13NO4
